US06747025B1
Preparation of 1-Morpholin-4-ylmethyl-3-(1H-pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one
A mixture of Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one (120 mg, 0.57 mmol), paraformaldehyde (32 mg, 1.1 mmol), and morpholine (62.2 μL, 0.71 mmol) in 8.0 mL of 20% dioxane in EtOH was heated at reflux for 19.5 h. The reaction mixture was concentrated and paraformaldehyde (10.0 mg, 0.33 mmol), morpholine (15 μL, 0.17 mmol) and EtOH (7 mL) was added. The reaction mixture refluxed for 24 h. The reaction mixture was cooled to room temperature and concentrated. The residue was dissolved in 15 mL of CHCl3 and treated with activated charcoal. The resulting suspension was filtered and the filtrate concentrated. The residue was crystallization from ethyl acetate/hexane to give the title compound (88.0 mg, 50%) as a bright yellow solid.

reactant | Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 0.57 mmol, 120 mg | N1C(=CC=C1)\C=C\1/C(NC2=CC=CC=C12)=O | C13H10N2O
reactant | paraformaldehyde | 1.1 mmol, 32 mg | C=O | CH2O
reactant | morpholine | 0.71 mmol, 62.2 μL | N1CCOCC1 | C4H9NO
reactant | paraformaldehyde | 0.33 mmol, 10.0 mg | C=O | CH2O
reactant | morpholine | 0.17 mmol, 15 μL | N1CCOCC1 | C4H9NO
solvent | dioxane | 8.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOH | CCO | C2H6O
solvent | EtOH | 7 mL | CCO | C2H6O
product | 1-Morpholin-4-ylmethyl-3-(1H-pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 88.0 mg, 50% | N1(CCOCC1)CN1C(C(C2=CC=CC=C12)=CC=1NC=CC1)=O | C18H19N3O2
